US07812028B2
a) 3-{4-[2-Cyclopropylmethoxy-5-((1R,2R)-2-hydroxy-cyclohexylcarbamoyl)-pyridin-3-yl]-phenyl}-propionic Acid
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31c, using 5-bromo-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide and 4-(2-carbethoxyethyl)benzene-boronic acid (commercially available) as starting materials to give the product as white solid, MS (ISP): 437.2 (M−H+).

reactant | 5-bromo-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1CC1 | C16H21BrN2O3
reactant | 4-(2-carbethoxyethyl)benzene-boronic acid | C(=O)(OCC)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
product | 3-{4-[2-Cyclopropylmethoxy-5-((1R,2R)-2-hydroxy-cyclohexylcarbamoyl)-pyridin-3-yl]-phenyl}-propionic Acid | C1(CC1)COC1=NC=C(C=C1C1=CC=C(C=C1)CCC(=O)O)C(N[C@H]1[C@@H](CCCC1)O)=O | C25H30N2O5
